US05508293
Synthesis of 5-n-butylamino-N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide
To a solution of propyl 5-n-butylamino-N-cyano-3-pyridinecarboximidate (99 mg, 0.38 mmol) in methanol (2 ml) was added 2-(2-chlorophenyl)ethylamine (71 mg, 0.46 mmol), and the mixture was stirred for 2 hours. After the reaction was completed, the reaction mixture was concentrated under reduced pressure and the residue obtained was purified by silica gel column chromatography (Wako Gel C-200, 30 g; eluted with chloroform:methanol=200:1) and further crystallized from diethyl ether to give the title compound (90 mg, 0.25 mmol) as colorless crystals in the yield of 67%.

reactant | propyl 5-n-butylamino-N-cyano-3-pyridinecarboximidate | 0.38 mmol, 99 mg | C(CCC)NC=1C=C(C=NC1)C(OCCC)=NC#N | C14H20N4O
reactant | 2-(2-chlorophenyl)ethylamine | 0.46 mmol, 71 mg | ClC1=C(C=CC=C1)CCN | C8H10ClN
solvent | methanol | 2 ml | CO | CH4O
product | 5-n-butylamino-N-cyano-N'-[2-(2-chlorophenyl)ethyl]-3-pyridinecarboximidamide | 0.25 mmol, 90 mg, yield of 67% | C(CCC)NC=1C=C(C=NC1)C(NC#N)=NCCC1=C(C=CC=C1)Cl | C19H22ClN5
